US07846959B2
To a solution of 1,1-dimethylethyl (5-chloro-3-iodo-2-methylphenyl)carbamate (5 g, 13.6 mmol) in dichloromethane (50 mL) was added trifluoroacetic acid (10 mL). The solution was stirred at ambient temperature for 2 hours, then concentrated in-vacuo. The resultant residue was partitioned between saturated sodium bicarbonate and ethyl acetate. The aqueous portion was extracted twice with ethyl acetate. The combined organic portions were washed with brine, dried over sodium sulfate, filtered and concentrated in-vacuo to afford an orange residue which was purified by column chromatography (silica gel, 5% ethyl acetate in hexane). The product was isolated to afford 3.05 g, 11.4 mmol (84%) of 5-chloro-3-iodo-2-methylaniline as a yellow solid. 1H NMR (400 MHz, CDCl3): 7.26 (d, 1H), 6.64 (d, 1H), 3.78 (br s, 2H), 2.28 (s, 3H); MS (EI) for C7H7ClIN: 268 (MH+).

reactant | 1,1-dimethylethyl (5-chloro-3-iodo-2-methylphenyl)carbamate | 13.6 mmol, 5 g | ClC=1C=C(C(=C(C1)NC(OC(C)(C)C)=O)C)I | C12H15ClINO2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-chloro-3-iodo-2-methylaniline | 11.4 mmol, 3.05 g, 84% | ClC=1C=C(C(=C(N)C1)C)I | C7H7ClIN
